US08309542B2
(a) tert. Butyl (3SR,4SR)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-methoxy-pyrrolidine-1-carboxylate
Prepared analogously to Example 1a from tert. Butyl (3SR,4SR)-3-amino-4-methoxy-pyrrolidine-1-carboxylate (prepared analogously to Y. Tsuzuki et al. Tetrahedron Asymm. 2001, 12, 2989) and 5-chlorothiophene-2-carbonyl chloride.

reactant | tert. Butyl (3SR,4SR)-3-amino-4-methoxy-pyrrolidine-1-carboxylate | NC1CN(CC1OC)C(=O)OC(C)(C)C | C10H20N2O3
reactant | 5-chlorothiophene-2-carbonyl chloride | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
product | tert. Butyl (3SR,4SR)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-methoxy-pyrrolidine-1-carboxylate | ClC1=CC=C(S1)C(=O)NC1CN(CC1OC)C(=O)OC(C)(C)C | C15H21ClN2O4S
